US05576324
2-(Carbobenzyloxy-L-prolyl)aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one:
2-Aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (2.00 g, 8.70 mmol) was dissolved in dimethylformamide (150 ml). To the obtained solution, carbobenzyloxy-L-proline (2.80 g, 11.3 mmol), WSC-HCl (2.00 g, 11.3 mmol) and HOBT (1.53 g, 11.3 mmol) were added, and the mixture was stirred at 50° C. for 48 hours. The reaction mixture was condensed under reduced pressure. The resultant residue was extracted using a solvent mixture (chloroform: methanol=4:1) combined with 1N-HCl. The organic phase was washed with saturated aqueous NaCl solution, followed by drying and condensing under reduced pressure. The resultant residue was purified by silica gel column chromatography (chloroform: methanol=20:1). The crude crystals were subjected to a recrystallizing procedure using chloroform--methanol--ether. As a result, 1.69 g of the title compound was obtained as colorless powdery crystals (42.1%).

reactant | 2-Aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 8.70 mmol, 2.00 g | NCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C13H14N2O2
reactant | carbobenzyloxy-L-proline | 11.3 mmol, 2.80 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | WSC HCl | 11.3 mmol, 2.00 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 11.3 mmol, 1.53 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-(Carbobenzyloxy-L-prolyl)aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 1.69 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)NCC2CC=3C(=C4C=CC(NC4=C(C3)C)=O)O2)CCC1 | C26H27N3O5
